US04686221
Methyl 2-cyano-3-hydroxy-3-(2,3,4,5-tetrafluorophenyl)acrylate (75.1 g) is added to a solution of sodium hydroxyde (110 g) in water (1.1 liter) and the mixture is stirred at room temperature for 26 hours. To the reaction mixture is added ice (1.3 Kg) and conc. HCl. After 1 hour, the precipitate is filtered and washed with dil. HCl to yield 2-(2,3,4,5-tetrafluorobenzoyl)acetonitrile (52.7 g) as a light cream colored powder, m.p. 60°-61° C.

reactant | Methyl 2-cyano-3-hydroxy-3-(2,3,4,5-tetrafluorophenyl)acrylate | 75.1 g | C(#N)C(C(=O)OC)=C(C1=C(C(=C(C(=C1)F)F)F)F)O | C11H5F4NO3
reactant | sodium | [Na] | Na
reactant | HCl | Cl | ClH
solvent | water | 1.1 liter | O | H2O
product | 2-(2,3,4,5-tetrafluorobenzoyl)acetonitrile | 52.7 g | FC1=C(C(=O)CC#N)C=C(C(=C1F)F)F | C9H3F4NO
